US05998595
Synthesis of 4-azido-3-chlorobenzyl bromide
4-Azido-3-chlorotoluene (17.14 g, 0.1 mol) was dissolved in dry benzene (80 ml) and thereto were added N-bromosuccinimide (19.6 g, 0.11 mol) and AIBN (1.64 g, 0.01 mol). The resulting mixture was refluxed in the shade in a nitrogen stream for 10 hr. Water (100 ml) was added and the mixture was filtrated. The aqueous layer of the filtrate was taken and extracted with ether. The organic layers were combined, washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained brown oil was purified by silica gel column chromatography (eluent; hexane) to give the title compound (14.2 g, yield 58%). m.p.: 75-77° C.

reactant | 4-Azido-3-chlorotoluene | 0.1 mol, 17.14 g | N(=[N+]=[N-])C1=C(C=C(C=C1)C)Cl | C7H6ClN3
reactant | N-bromosuccinimide | 0.11 mol, 19.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.01 mol, 1.64 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | Water | 100 ml | O | H2O
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 4-azido-3-chlorobenzyl bromide | 14.2 g, yield 58% | N(=[N+]=[N-])C1=C(C=C(CBr)C=C1)Cl | C7H5BrClN3
